US06469210B1
4.8 g (18 mmol) of 2-[1-(4-chlorophenyl)ethyl]-4-isopropyl-4-methyl-1,3-oxazol-5-one was dissolved in 40 ml of tetrahydrofuran. Thereto was dropwise added, at 5° C., a solution obtained by diluting 20.4 ml of a 1.14 M/liter methyllithium ether solution (23.3 mmol) with 50 ml of tetrahydrofuran. The mixture was kept at 10° C. or below and subjected to a reaction for 1 hour. After the completion of the reaction, ethyl acetate and water were added for phase separation. The separated organic layer was concentrated. The resulting concentrate was subjected to column chromatography to obtain 2.9 g (0.01 mol) (yield=55%) of 2-(4-chlorophenyl)-N-[1-methyl-1-isopropyl-2-oxopropyl]propanamide.

reactant | 2-[1-(4-chlorophenyl)ethyl]-4-isopropyl-4-methyl-1,3-oxazol-5-one | 18 mmol, 4.8 g | ClC1=CC=C(C=C1)C(C)C=1OC(C(N1)(C)C(C)C)=O | C15H18ClNO2
reactant | methyllithium ether | 23.3 mmol | C[Li].CCOCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorophenyl)-N-[1-methyl-1-isopropyl-2-oxopropyl]propanamide | 0.01 mol, 2.9 g, yield=55% | ClC1=CC=C(C=C1)C(C(=O)NC(C(C)=O)(C(C)C)C)C | C16H22ClNO2
